US09328099B2
Step A-C. tert-Butyl 3-cyanocyclohex-3-ene-1-carboxylate
tert-Butyl 3-oxocyclohexanecarboxylate (1.35 g, 6.81 mmol) was taken up in water (11.4 mL) and stirred at ambient temperature. Sodium metabisulfite (0.75 g, 3.9 mmol) was added and the mixture was allowed to stir for 40 minutes. Diethyl ether (11.4 mL) was added, followed by potassium cyanide (0.70 g, 11 mmol). The resulting mixture was allowed to stir vigorously for 1 hour before it was partitioned between diethyl ether and water. The organic layer was washed with water, brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The residue, used without further purification, was dissolved in DCM (22.0 mL). DIPEA (1.07 g, 8.26 mmol) was added and the resulting mixture was cooled to 0° C. Methanesulfonyl chloride (0.69 g, 6.1 mmol) was added dropwise and the resulting mixture was maintained at 0° C. for 20 minutes then allowed to warm to ambient temperature. The mixture was partitioned between DCM and water. The organic layer was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue, used without further purification, was dissolved in pyridine (13.6 mL) and heated to 95° C. for 20 hours. The mixture was then allowed to cool to ambient temperature and was concentrated in vacuo. The residue was purified by MPLC on silica gel (using a gradient elution of 0-45% EtOAc/hexanes). Desired fractions were identified, combined, and concentrated in vacuo to afford the title compound.

reactant | tert-Butyl 3-oxocyclohexanecarboxylate | 6.81 mmol, 1.35 g | O=C1CC(CCC1)C(=O)OC(C)(C)C | C11H18O3
reactant | Sodium metabisulfite | 3.9 mmol, 0.75 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | potassium cyanide | 11 mmol, 0.70 g | [C-]#N.[K+]
reactant | DIPEA | 8.26 mmol, 1.07 g | CCN(C(C)C)C(C)C | C8H19N
reactant | Methanesulfonyl chloride | 6.1 mmol, 0.69 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | 11.4 mL | O | H2O
solvent | Diethyl ether | 11.4 mL | C(C)OCC | C4H10O
product | tert-Butyl 3-cyanocyclohex-3-ene-1-carboxylate | C(#N)C=1CC(CCC1)C(=O)OC(C)(C)C | C12H17NO2
